Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right popliteal aneurysm
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
Other:  Right popliteal artery aneurysm. 
History Present Illness: Mr. ___ is a pleasant ___ 
man
who presents for management of his right popliteal artery
aneurysm.  This was an incidental finding as part of diagnostic
workup after a fall on
his right knee. In this regard, the patient remains
asymptomatic.  No distal lower extremity color changes or acute
ischemic events. He denies any claudication or rest pain.  No
open areas or ulcerations.  He presents today after CTA imaging
to further assess his popliteal aneurysm and assess his other
vasculature for aneurysmal disease. He is a non-smoker. He is
following by his cardiologist for his BP. He remains on
Lipitor and warfarin for AF although he stopped taking warfarin 
4
days prior to presentation in preparation for his surgery. 
Of note, in ___, Mr. ___ had a pacemaker placed. This was
due to episodes of syncope that were found to be due to
bradycardia. 

 
Past Medical History:
VASCULAR RISK FACTORS: Hypercholesterol, Hypertension. 

PAST MEDICAL HISTORY: Coronary artery disease, elevated
cholesterol, hypothyroidism, BPH, arthritis, atrial fibrillation
Raynaud's and gastrointestinal bleeding

PAST SURGICAL HISTORY: CABG ___ years ago, pacemaker placement
___

 
Social History:
___
Family History:
FAMILY HISTORY: Positive for aneurysm, cancer, heart failure and
high cholesterol.

 
Physical Exam:
BP: 144/77. Heart Rate: 74. 
GENERAL:  Well appearing, in NAD
CV:  RRR.
LUNGS:  CTAB
ABDOMEN:  Soft and nontender.  
PULSES: ___
R: Palp/Dop/Dop/Dop
L: Palp/Dop/Dop/Dop

 
Pertinent Results:
___ 03:57PM BLOOD WBC-5.6 RBC-2.70* Hgb-8.3* Hct-25.5* 
MCV-94 MCH-30.7 MCHC-32.5 RDW-13.9 RDWSD-47.2* Plt ___
___ 03:57PM BLOOD Plt ___
___ 03:57PM BLOOD ___ PTT-29.6 ___
___ 03:57PM BLOOD Glucose-147* UreaN-22* Creat-1.2 Na-138 
K-3.9 Cl-102 HCO3-28 AnGap-12
___ 03:57PM BLOOD Calcium-10.2 Phos-3.7 Mg-2.0
___ 04:12PM URINE Color-Straw Appear-Clear Sp ___
___ 04:12PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-LG
___ 04:12PM URINE RBC-0 WBC-38* Bacteri-FEW Yeast-NONE 
Epi-<1
___- Urine Cultures Pending

___ - CTA AORTA/BIFEM/ILIAC RUNOFF W/W&WO CONTRAST
Wetread:
1. 3.1 cm, peripherally calcified and partially thrombosed right 
popliteal
aneurysm is not significantly changed in size from ___. 
2. As before, there is moderate calcified atherosclerosis of the 
right common iliac, common femoral and superficial femoral 
arteries on the right without focal stenosis. The calf vessels 
are heavily calcified and flow is difficult to assess. 
3. There is moderate to severe calcified atherosclerosis of the 
left common iliac, common femoral, superficial femoral and 
popliteal arteries without focal stenosis. CT vessels are 
heavily calcified and flow is difficult to assess. 
4. Colonic diverticulosis without evidence of diverticulitis. No 
free air or free fluid in the abdomen or pelvis. 
5. Bibasilar atelectasis. 
6. Marked coronary artery calcification. 

 
Brief Hospital Course:
Mr. ___ is an ___ y/o male who presented for endovascular 
popliteal stent graft for a 3.1cm right popliteal aneurysm 
incidentally found during workup for a fall. A routine 
urinalysis performed at the time of presentation was found to be 
positive with urine cultures pending at the time of discharge. 
The patient did complain of dysuria and had also been treated 
for a UTI in ___ after he was hospitalized for his pacemaker 
placement. Treatment for complicated UTI with ___ day course 
of Ciprofloxacin was initiated on ___ with recommendation for 
outpatient follow up in ___ clinic given chronic UTI's. 
Prior to his surgery, he also had a CT Angio, which showed 
slight increase in the size of the popliteal aneurysm as well as 
occlusion of the AT and ___ bilaterally with collateral flow to 
the DP and plantar arch from peroneal arteries bilaterally. with 
Given the UTI, Mr. ___ operation was rescheduled for 
___. Urology says that as long as he is being 
treated, there should be no issue to delay his surgery further. 
He will be discharged home on a levenox to coumadin bridge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO QPM 
2. Eplerenone 25 mg PO DAILY 
3. Famotidine 20 mg PO BID 
4. Finasteride 5 mg PO DAILY 
5. Levothyroxine Sodium 150 mcg PO DAILY 
6. Levothyroxine Sodium 150 mcg PO 2 TABLETS ON ___ AND 
___ 
7. Tamsulosin 0.4 mg PO BID 
8. Warfarin 3 mg PO UP TO 2 TAB DAILY AS DIRECTED BY INR 

 
Discharge Medications:
1. Enoxaparin Sodium 80 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 80 mg/0.8 mL 1 syringe subcutaneous q12 Disp #*24 
Syringe Refills:*0
2. Atorvastatin 80 mg PO QPM 
3. Eplerenone 25 mg PO DAILY 
4. Famotidine 20 mg PO BID 
5. Finasteride 5 mg PO DAILY 
6. Tamsulosin 0.4 mg PO BID 
7. Ciprofloxacin HCl 750 mg PO Q12H 
RX *ciprofloxacin HCl 750 mg 1 tablet(s) by mouth q12 Disp #*28 
Tablet Refills:*0
8. Warfarin 3 mg PO UP TO 2 TAB DAILY AS DIRECTED BY INR 
9. Levothyroxine Sodium 150 mcg PO 5X/WEEK (___) 
10. Levothyroxine Sodium 300 mcg PO 2X/WEEK (___) 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right popliteal aneurysm
Urinary tract Infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ for surgical management of your right 
knee popliteal aneurysm. However, you were found to have a 
positive urinalysis which is likely indicative of a urinary 
tract infection. You will be sent home on a course of oral 
antibiotics and your surgery will be rescheduled for ___. 
You should also follow up with urology as an outpatient to 
workup your chronic urinary tract infections. You can contact 
the ___ Urology Team at ___ 
 
Followup Instructions:
___